US09029538B2
3-Ethyl-1-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester was hydrolyzed with 1N LiOH in MeOH and THF at 65° C. The acid was coupled with 4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorophenylamine using the method for example 1 to give 3-ethyl-1-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-fluoro-phenyl]-amide mp 140-142° C.; LCMS m/z=575 (M+1); 1H NMR (DMSO) δ: 11.18 (s, 1H), 8.49 (d, 1H, J=2.5 Hz), 8.46 (s, 1H), 8.03 (dd, 1H, J=3 Hz, J=13 Hz), 7.65-7.39 (m, 6H), 7.55 (s, 1H), 7.41 (s, 1H), 6.49 (d, 1H, J=5.0 Hz), 4.00 (q, 2H, J=7.4 Hz), 3.95 (s, 6H), 1.23 (t, 3H, J=7.3 Hz).

reactant | 3-Ethyl-1-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C(N(C1)C1=CC=C(C=C1)F)=O)CC)=O | C15H15FN2O4
reactant | LiOH | 1N | [Li+].[OH-]
reactant | 4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorophenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
solvent | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 3-ethyl-1-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-fluoro-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(C1)C1=CC=C(C=C1)F)=O)CC)=O)F | C30H24F2N4O6
